US05627198
tert-Butyl thiazol-2-ylcarbamate:
2-Aminothiazole (5.00 g, 49.9 mmol) and di-tert.butyl pyrocarbonate (23.0 ml, 100 mmol) in 250 ml of absolute methanol are boiled under reflux for 2 hours. In addition, di-tert-butyl pyrocarbonate (11.5 ml, 50.1 mmol) is added dropwise and the mixture is boiled under reflux for a further 2 hours. The reaction mixture is taken up in 250 ml of methanol and stirred with activated carbon, the mixture is filtered and the activated carbon is washed with dichloromethane. After evaporating off the solvents from the combined organic phases, the residue is digested with hexane.

reactant | 2-Aminothiazole | 49.9 mmol, 5.00 g | NC=1SC=CN1 | C3H4N2S
reactant | di-tert.butyl pyrocarbonate | 100 mmol, 23.0 ml | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl pyrocarbonate | 50.1 mmol, 11.5 ml | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 250 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
product | tert-Butyl thiazol-2-ylcarbamate | S1C(=NC=C1)NC(OC(C)(C)C)=O | C8H12N2O2S
